US09376422B2
Step 7: Synthesis of methyl 5-chloro-2-ethyl-3-[methyl(oxan-4-yl)amino]benzoate
To a solution of methyl 5-chloro-2-ethyl-3-[(oxan-4-yl)amino]benzoate (350 mg, 1.18 mmol) in 1,2-dichloroethane (10 ml) at room temperature under nitrogen was added paraformaldehyde (212 mg, 7.05 mmol) followed by acetic acid (0.4 ml, 7.05 mmol). This mixture was stirred for 5 minutes before the addition of sodium triacetoxyborohydride (1.49 g, 7.05 mmol). After stirring for 23 hours, further paraformaldehyde (212 mg, 7.05 mmol) was added to the reaction mixture and this was stirred for 10 minutes before the addition of sodium triacetoxyborohydride (1.49 g, 7.05 mmol). After stirring for 3 hours, deionized water (15 ml) was added and the mixture was neutralized with solid NaHCO3 and the phases were separated. The aqueous layer was extracted with EtOAc (2×15 ml) and the combined organic extracts were dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by FCC (10 g silica, Isolute cartridge, gradient of eluents; 99:1 Heptane:EtOAc to 85:15 Heptane:EtOAc) to give 334 mg of the title compound as a colorless oil. The product contains ˜22% ethyl ester. The material was taken through the next step without further purification. LC-MS 56%, m/z=312.0/314.0, 1H NMR (500 MHz, Chloroform-d) δ ppm 7.52 (d, J=2.2 Hz, 1H), 7.24 (d, J=2.2 Hz, 1H), 4.01-3.93 (m, 2H), 3.89 (s, 3H), 3.34 (td, J=11.7, 2.3 Hz, 2H), 3.06-2.96 (m, 2H), 2.94-2.85 (m, 1H), 2.61 (s, 3H), 1.76-1.59 (m, 4H), 1.10 (t, J=7.4 Hz, 3H).

reactant | methyl 5-chloro-2-ethyl-3-[(oxan-4-yl)amino]benzoate | 1.18 mmol, 350 mg | ClC=1C=C(C(=C(C(=O)OC)C1)CC)NC1CCOCC1 | C15H20ClNO3
reactant | paraformaldehyde | 7.05 mmol, 212 mg | C=O | CH2O
reactant | acetic acid | 7.05 mmol, 0.4 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 7.05 mmol, 1.49 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | paraformaldehyde | 7.05 mmol, 212 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 7.05 mmol, 1.49 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | water | 15 ml | O | H2O
product | methyl 5-chloro-2-ethyl-3-[methyl(oxan-4-yl)amino]benzoate | 334 mg | ClC=1C=C(C(=C(C(=O)OC)C1)CC)N(C1CCOCC1)C | C16H22ClNO3
